US04024179
A solution of 2.20 g. (8.57 mmoles) of the N-methanesulfonyl-5-bromovaleramide, prepared as above, 2.24 g. (8.57 mmoles) of triphenylphosphine, and 20 ml. of acetonitrile was heated to reflux under nitrogen overnight. The solution was then concentrated by rotary evaporation and the resultant solid was triturated with hot benzene (4X). The triturated solid was recrystallized from absolute ethanol:ether to afford the white, crystalline [4-(methanesulfonylaminocarbonyl)butyl]triphenylphosphonium bromide weighing 2.80 g. (63.7% yield) melting at 190° -191°.

reactant | N-methanesulfonyl-5-bromovaleramide | 8.57 mmoles | CS(=O)(=O)NC(CCCCBr)=O | C6H12BrNO3S
reactant | triphenylphosphine | 8.57 mmoles | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | [4-(methanesulfonylaminocarbonyl)butyl]triphenylphosphonium bromide | 2.80 g, 63.7% yield | [Br-].CS(=O)(=O)NC(=O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26NO3PS.BrH/c1-30(27,28)25-24(26)19-11-12-20-29(21-13-5-2-6-14-21,22-15-7-3-8-16-22)23-17-9-4-10-18-23;/h2-10,13-18H,11-12,19-20H2,1H3;1H
